US07109186B2
Compound 858: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methyl-(4-trifluoromethyl-benzyl)-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methyl-N-(4-trifluoromethyl-benzyl)-acetamide (0.36 g, 1.05 mmol) with the paraformaldehyde-N-(2-aminoethyl)morpholine adduct in methanol using a procedure similar to the one described in the preparation of compound 13 gave 0.16 g (35% yield) of the title compound as a solid after chromatography on reversed phase silica gel. 1HNMR 400 MHz (CDCl3) δ (ppm); 2.46 (4H, m, 2×NCH2), 2.57 (2H, t, J=6.1 Hz, NCH2), 3.04 (3H, s, NCH3), 3.6 (6H, m, 2×OCH2 and NCH2), 4.25 (2H, s, NCH2), 4.72 (2H, s, NCH2), 7.41 (2H, d, J=8.0 Hz, aromatics), 7.62 (2H, d, J=8.0 Hz, aromatics). HRMS (FAB+) calculated for C20H25F3N3O4: [M+H]+: 428.179716. found: 428.179157.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methyl-N-(4-trifluoromethyl-benzyl)-acetamide | 1.05 mmol, 0.36 g | CC1(OC(C(O1)=CC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)C)=O)C | C16H16F3NO4
reactant | paraformaldehyde N-(2-aminoethyl)morpholine | C=O.NCCN1CCOCC1
solvent | methanol | CO | CH4O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methyl-(4-trifluoromethyl-benzyl)-amide | 0.16 g, 35% yield | CN(C(=O)C=1CN(C(C1O)=O)CCN1CCOCC1)CC1=CC=C(C=C1)C(F)(F)F | C20H24F3N3O4
